US06689806B1
Methyl iodide (1.41 g, 10 mmol) was added to a stirred mixture of silver trifluoromethanesulfonate (2.56 g, 10 mmol) and 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (0.88 g, 5 mmol) in dichloromethane (20 mL) at 0° C. The precipitate formed after 5-10 minutes changed color from yellow to gray then dark purple. The mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with dichloromethane and filtered through celite. The filtrate was concentrated and chromatographed on silica gel to give 4-(2-methoxy-ethyl)-1,3-dihydro-indol-2-one.

reactant | Methyl iodide | 10 mmol, 1.41 g | CI | CH3I
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 5 mmol, 0.88 g | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | silver trifluoromethanesulfonate | 10 mmol, 2.56 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | 4-(2-methoxy-ethyl)-1,3-dihydro-indol-2-one | COCCC1=C2CC(NC2=CC=C1)=O | C11H13NO2
